US08058447B2
1-[2-(Allyloxy)phenyl]ethanone
542 g (3.9 mol) of 2-hydroxyacetophenone are heated to reflux with 592 g (4.9 mol) of allyl bromide, 1000 g (7.2 mol) of potassium carbonate and 13.2 g (79 mmol) of potassium iodide in 2.4 liters of acetone for 24 h. Cooling to room temperature is followed by filtration and removal of the solvent in vacuo. The residue is dissolved in toluene and washed with 10% strength sodium hydroxide solution and water. Concentration results in 689 g (98% of theory) of the title compound.

reactant | 2-hydroxyacetophenone | 3.9 mol, 542 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | allyl bromide | 4.9 mol, 592 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 7.2 mol, 1000 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 79 mmol, 13.2 g | [I-].[K+]
solvent | acetone | 2.4 liters | CC(=O)C | C3H6O
product | 1-[2-(Allyloxy)phenyl]ethanone | C(C=C)OC1=C(C=CC=C1)C(C)=O | C11H12O2
